US06888027B2
3-{3-[(Benzo[1,3]dioxol-5-ylmethyl)-sulfamoyl]-phenyl}-acrylic acid
To a suspension of 3-{3-[(benzo[1,3]dioxol-5-ylmethyl)-sulfamoyl]-phenyl}-acrylic acid methyl ester (0.47 g, 1.25 mmol) in methanol (6 ml) 1N NaOH solution (3.75 ml, 3.75 mmol) was added and the resultant mixture was stirred at ambient temperature overnight. The reaction mixture was partitioned between ethyl acetate and water. The aqueous layer was acidified with 2N HCl solution and stirred for 30 min. The precipitated solid was filtered, washed with water and dried in desiccator over P2O5. The title compound was obtained as a white solid (0.39 g, 87%).

reactant | 3-{3-[(benzo[1,3]dioxol-5-ylmethyl)-sulfamoyl]-phenyl}-acrylic acid methyl ester | 1.25 mmol, 0.47 g | COC(C=CC1=CC(=CC=C1)S(NCC1=CC2=C(OCO2)C=C1)(=O)=O)=O | C18H17NO6S
reactant | methanol | 3.75 mmol, 1N, 6 ml | CO | CH4O
product | 3-{3-[(Benzo[1,3]dioxol-5-ylmethyl)-sulfamoyl]-phenyl}-acrylic acid | O1COC2=C1C=CC(=C2)CNS(=O)(=O)C=2C=C(C=CC2)C=CC(=O)O | C17H15NO6S
